US06509329B1
Synthesis of N,N′-bis[[2-(3,4,5-Trimethoxyphenyl)-pyrimidin-4-yl]methyl ]piperazine
4-Chloromethyl-2-(3,4,5-trimethoxyphenyl) pyrimidine (300 mg) and piperazine (44 mg) were reacted in the same manner as in Example 1 to obtain the title compound as a free base.

reactant | 4-Chloromethyl-2-(3,4,5-trimethoxyphenyl) pyrimidine | 300 mg | ClCC1=NC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C14H15ClN2O3
reactant | piperazine | 44 mg | N1CCNCC1 | C4H10N2
product | N,N′-bis[[2-(3,4,5-Trimethoxyphenyl)-pyrimidin-4-yl]methyl ]piperazine | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=N1)CN1CCN(CC1)CC1=NC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C32H38N6O6
